US06894061B2
6-Ethyl-5-[(4-methoxy-3-methylphenyl)sulfonyl]-5,6-dihydrophenanthridine
The title compound was prepared from phenanthridine, 0.62 M ethyllithium in diethyl ether, and 4-methoxy-3-methylbenzenesulfonyl chloride according to the procedure and in the same manner as described in Example 18, step a and yielded, after chromatographic purification and crystallization from diethyl ether, 6-ethyl-5-[(4-methoxy-3-methylphenyl)sulfonyl]-5,6-dihydrophenanthridine as a colorless, crystalline, solid, which was characterized by LCMS (ES+, FA, CV=5) and 1H NMR.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | ethyllithium | 0.62 M | C(C)[Li]
reactant | 4-methoxy-3-methylbenzenesulfonyl chloride | COC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C8H9ClO3S
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-Ethyl-5-[(4-methoxy-3-methylphenyl)sulfonyl]-5,6-dihydrophenanthridine | C(C)C1N(C=2C=CC=CC2C2=CC=CC=C12)S(=O)(=O)C1=CC(=C(C=C1)OC)C | C23H23NO3S
